US09278950B2
Step 2. tert-Butyl ((3R,4R,5S)-1-(3-amino-5-methylpyridin-4-yl)-4-{[tert-butyl(dimethyl) silyl]oxy}-5-methylpiperidin-3-yl)carbamate
A mixture of tert-butyl [(3R,4R,5S)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methyl-1-(3-methyl-5-nitropyridin-4-yl)piperidin-3-yl]carbamate (12 mg, 0.025 mmol), iron powder (38 mg, 0.68 mmol) and ammonium chloride (55 mg, 1.0 mmol) in EtOH (0.9 mL) and water (0.2 mL) was stirred at room temperature for 16 h. A second aliquot of iron powder (380 mg), ammonium chloride (550 mg), and EtOH (1 mL) were added and stirring was continued at 55° C. for 3 h. The crude reaction mixture was filtered through a pad of diatomaceous earth and the inorganics were washed thoroughly with EtOAc. The filtrate was concentrated under reduced pressure to give the sub-title compound (11 mg, 100%), which was used directly in the subsequent reaction without further purification. LCMS (ESI) calc. for C23H43N4O3Si [M+H]+: m/z=451.3. found 451.2.

reactant | tert-butyl [(3R,4R,5S)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methyl-1-(3-methyl-5-nitropyridin-4-yl)piperidin-3-yl]carbamate | 0.025 mmol, 12 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](CN(C[C@@H]1C)C1=C(C=NC=C1[N+](=O)[O-])C)NC(OC(C)(C)C)=O | C23H40N4O5Si
reactant | ammonium chloride | 1.0 mmol, 55 mg | [Cl-].[NH4+]
reactant | ammonium chloride | 550 mg | [Cl-].[NH4+]
solvent | EtOH | 0.9 mL | CCO | C2H6O
solvent | water | 0.2 mL | O | H2O
catalyst | iron | 0.68 mmol, 38 mg | [Fe] | Fe
catalyst | iron | 380 mg | [Fe] | Fe
solvent | EtOH | 1 mL | CCO | C2H6O
product | tert-Butyl ((3R,4R,5S)-1-(3-amino-5-methylpyridin-4-yl)-4-{[tert-butyl(dimethyl) silyl]oxy}-5-methylpiperidin-3-yl)carbamate | 11 mg, 100% | NC=1C=NC=C(C1N1C[C@H]([C@@H]([C@H](C1)C)O[Si](C)(C)C(C)(C)C)NC(OC(C)(C)C)=O)C | C23H42N4O3Si
